US08476297B2
(R)-(4,4-Difluorocyclohexyl)(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-yl)methanone
To a stirred mixture of (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (0.205 g, 0.74 mmol), DIEA (0.14 mL, 0.81 mmol), and 4,4-difluoro-cyclohexanecarboxylic acid (0.13 g, 0.81 mmol) in DMF (4 mL) was added HATU (0.31 g, 0.81 mmol). The reaction mixture was continued to stir for 2 h, quenched with H2O, and extracted with DCM (3×). The organic extracts were dried over Na2SO4, concentrated and purified by ISCO (20% EtOAc/hexanes) to give the white solid. MS (ESI, positive ion) m/z: 424 (M+1).

reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 0.74 mmol, 0.205 g | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.81 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,4-difluoro-cyclohexanecarboxylic acid | 0.81 mmol, 0.13 g | FC1(CCC(CC1)C(=O)O)F | C7H10F2O2
reactant | HATU | 0.81 mmol, 0.31 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (R)-(4,4-Difluorocyclohexyl)(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-yl)methanone | FC1(CCC(CC1)C(=O)N1[C@@H](C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F)F | C23H22F5NO
